US04873251
1-[2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridin-1-yl-2-propanone hydrochloride [1:1]
The 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine (2.29 g, 0.01 mole), was added to a suspension of sodium hydride (0.44 g of 60% of sodium hydride/oil, 0.01 mole, washed one with hexanes) in 50 ml of dimethylformamide. The mixture was heated to 70° C. for 1 hr before the addition of chloroacetone (0.93 g, 0.01 mole) at room temperature. The reaction mixture was stirred at room temperature overnight, then poured into 300 ml of water. The precipitate was collected by filtration, washed with water, and dried under high vacuum at 50° C. overnight. The solid was recrystallized from methanol-water and dried under high vacuum at 50° C. overnight. The solid was dissolved in methanol, treated with charcoal, and filtered through Celite to give a pale yellow filtrate. The filtrate was concentrated and diluted with water to initiate crystallization. The precipitate was collected by filtration, washed with water, and dried under high vacuum overnight. The solid was dissolved in isopropyl alcohol, acidified with ethereal hydrogen chloride, diluted with isopropyl ether, and seeded to initiate crystallization. The crystalline solid was collected by filtration, washed with isopropyl ether, and dried under high vacuum overnight to give 1.6 g, (50%), m.p. 220°-22° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine | 0.01 mole, 2.29 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1 | C12H8ClN3
reactant | sodium hydride | 0.01 mole, 0.44 g | [H-].[Na+]
reactant | chloroacetone | 0.01 mole, 0.93 g | ClCC(C)=O | C3H5ClO
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridin-1-yl-2-propanone hydrochloride | Cl.ClC1=CC=C(C=C1)C=1N(C=2C(=NC=CC2)N1)CC(C)=O | InChI=1S/C15H12ClN3O.ClH/c1-10(20)9-19-13-3-2-8-17-14(13)18-15(19)11-4-6-12(16)7-5-11;/h2-8H,9H2,1H3;1H
